US07060827B2
2,4-Dichloro-5-fluoropyrimidine (50 mg, 0.30 mmol) was dissolved in a mixture of MeOH (1 ml) and H2O (0.1 ml). 4-benzyloxy-3-trifluoromethylaniline (481 mg, 1.8 mmol) was added and the mixture was refluxed for 2 days (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 9:1) to give N2,N4-bis(4-benzyloxy-3-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.51 (s, 1H), 8.05 (s, 1H), 7.38–7.64 (m, 5H), 6.94–7.14 (m, 11H), 6.44–6.73 (m, 4H), 4.84 (s, 2H), 4.79 (s, 2H); LCMS purity: 94.7%; MS (m/e): 628.93 (M+, 100).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 0.30 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-benzyloxy-3-trifluoromethylaniline | 1.8 mmol, 481 mg | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)C(F)(F)F | C14H12F3NO
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 0.1 ml | O | H2O
product | N2,N4-bis(4-benzyloxy-3-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(F)(F)F)F)C(F)(F)F | C32H23F7N4O2
